US08168794B2
To a solution of 4-(5-methylcyclohexa-1,3-dienyl)-3-nitropyridine (1.0 equiv.) in THF and water (1:1, 0.13M) was added NBS (1.5 equiv.) and the reaction was stirred at room temperature for 30 min. Upon completion, ethyl acetate and water were added to the reaction, the organic phase was dried with brine, then sodium sulfate, filtered, and concentrated. The crude material was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to give (+/−)-6-bromo-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enol as a yellow oil in 80% yield. LC/MS=315.0/313.0 (M+H), LC=2.966 min.

reactant | 4-(5-methylcyclohexa-1,3-dienyl)-3-nitropyridine | 1.0 equiv. | CC1C=CC=C(C1)C1=C(C=NC=C1)[N+](=O)[O-] | C12H12N2O2
reactant | NBS | 1.5 equiv. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 0.13M | O | H2O
product | (+/−)-6-bromo-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enol | 80% yield | BrC1C(CC(=CC1O)C1=C(C=NC=C1)[N+](=O)[O-])C | C12H13BrN2O3
